US06080754
6-Benzyloxy-2-(4-benzyloxyphenyl)-1-ethylindolizine (50.0 g, 115 mmol) and dimethyl acetylene dicarboxylate (18.5 ml, 150 mmol) was dissolved in 1100 ml of dry toluene at 0° C. The reaction was slowly heated to room temperature and stirred for 3 hours. 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone (26 g, 115 mmol) was added and stirring was continued for 1/2 hour. The mixture was filtered through celite and the solvent removed. The crude product was crystallised from methanol to afford 47.4 g (71%) of dimethyl 7-benzyloxy-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylate as yellow crystals. M.p. 115-120° C. 1H-NMR (DMSO-d6, 300 MHz) δ: 1.32 (t, 3H); 3.01 (q, 2H); 3.56 (s, 3H); 3.72 (s, 3H); 5.21 (s, 2H); 5.50 (s, 2H); 7.17 (d, 2H; 7.32-7.53 (m, 10H); 7.60 (d, 2H); 7.67 (d, 1H); 8.22 (d, 1H).

reactant | 6-Benzyloxy-2-(4-benzyloxyphenyl)-1-ethylindolizine | 115 mmol, 50.0 g | C(C1=CC=CC=C1)OC1=CN2C=C(C(=C2C=C1)CC)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C30H27NO2
reactant | dimethyl acetylene dicarboxylate | 150 mmol, 18.5 ml | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone | 115 mmol, 26 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 1100 ml | C1(=CC=CC=C1)C | C7H8
product | dimethyl 7-benzyloxy-3-(4-benzyloxyphenyl)-4-ethylpyrrolo[2,1,5-cd]indolizine-1,2-dicarboxylate | 47.4 g, 71% | C(C1=CC=CC=C1)OC1=CC=C2N3C(=C(C(=C13)C(=O)OC)C(=O)OC)C(=C2CC)C2=CC=C(C=C2)OCC2=CC=CC=C2 | C36H31NO6
